US04282245
A mixture of 3 ml of conc. hydrochloric acid, 3 ml of acetic acid and 0.33 g of 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide was refluxed with stirring for 3.5 hours. The reaction mixture was concentrated, and to this was added water. Threafter, the resulting mixture was extracted with ethyl acetate, and the extract was reextracted with a saturated sodium hydrogen carbonate solution. The extract was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a brown solid substance, which was chromatographed over 6 g of silica gel and eluted with chloroform, and there were obtained light yellow crystals. The thus obtained crystals were recrystallized from chloroform to give 0.14 g (yield: 43%) of 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a light yellow powder having a melting point of 209.5°-211° C.

reactant | hydrochloric acid | 3 ml | Cl | ClH
reactant | 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 0.33 g | [N+](=O)([O-])C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C1 | C17H14N2O4S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 2-(10,11-dihydro-8-nitro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 0.14 g, yield: 43% | [N+](=O)([O-])C=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1 | C17H13NO5S
